US05859014
A mixture of 1-methoxymethyl-3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione (40.4 g, 0.16 mol) and isopropanol (200 mL) was heated to 60° C. and added to refluxing concentrated hydrochloric acid (200 mL) at a rate such that the reaction mixture remained at gentle reflux. The mixture was heated 3 hours at reflux and then distilled to remove methanol byproduct. The mixture was heated 4.5 hours at 92° C., cooled to 25° C., poured into water (650 mL), saturated with sodium hydroxide and extracted with ethyl acetate (5×300 mL). The combined extracts were washed with sodium bicarbonate and water and concentrated in vacuo. The residue was recrystallized from toluene/isopropanol (10:1, 55 mL) and the solids were collected, washed with hexanes and dried at 60° C. (15 g 1st crop). The mother liquors were concentrated and the solids were collected, dried (2nd crop) and combined with the first crop to give 3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione (19.8 g, 94 mmol), m.p. 145°-147° C.

reactant | 1-methoxymethyl-3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | 0.16 mol, 40.4 g | COCN1C(N(C(C(=C1)C)=O)CCCCl)=O | C10H15ClN2O3
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | isopropanol | 200 mL | C(C)(C)O | C3H8O
product | 3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | 94 mmol, 19.8 g | ClCCCN1C(NC=C(C1=O)C)=O | C8H11ClN2O2
